US04036858
In the manner described in Example 4, 110 g. (0.66 mole) of 1-dodecene and 16 g. (0.13 mole) of 7-methyl-1-octene are reacted at a reaction temperature of 100° C. After 21/2 hours and a throughput of 200 ml. of olefin mixture per hour, 8.7% by weight of 2-methyl-7-octadecene is obtained. The extractor contains in this case 26.6 g. of the catalyst described in Example 4.

reactant | 1-dodecene | 0.66 mole | C=CCCCCCCCCCC | C12H24
reactant | 7-methyl-1-octene | 0.13 mole | CC(CCCCC=C)C | C9H18
product | 2-methyl-7-octadecene | CC(C)CCCCC=CCCCCCCCCCC | C19H38
